US07700628B2
A. N-(5-Chloropyridin-2-yl)-5-fluoro-2-(2-acetoxy-4-fluorobenzoylamino)-benzamide
5-Fluoro-2-amino-N-(5-chloropyridin-2-yl)benzamide (5.32 g, 20 mmol) was added to a solution of 2 mL dry pyridine and 2-acetoxy-4-fluorobenzoyl chloride (21 mmol) in 100 mL dry methylene chloride under dry nitrogen with magnetic stirring. The reaction was allowed to stir overnight at room temperature and then was diluted with 500 mL of methylene chloride. The methylene chloride solution was washed with cold 1 M HCl, cold saturated NaHCO3, and brine; and then was dried over sodium sulfate. The solvent was evaporated, and the crude product was crystallized from acetone to give 2:92 g of off-white product.

reactant | 5-Fluoro-2-amino-N-(5-chloropyridin-2-yl)benzamide | 20 mmol, 5.32 g | FC=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)N | C12H9ClFN3O
reactant | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | 2-acetoxy-4-fluorobenzoyl chloride | 21 mmol | C(C)(=O)OC1=C(C(=O)Cl)C=CC(=C1)F | C9H6ClFO3
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 500 mL | C(Cl)Cl | CH2Cl2
product | N-(5-Chloropyridin-2-yl)-5-fluoro-2-(2-acetoxy-4-fluorobenzoylamino)-benzamide | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)NC(C1=C(C=C(C=C1)F)OC(C)=O)=O)=O | C21H14ClF2N3O4
